// Generated for: spectre
// Generated on: Oct  1 14:08:18 2021
// Design library name: MultiChannel_EMG_IMP
// Design cell name: TCA_DSL_v3
// Design view name: schematic
simulator lang=spectre
global 0
parameters AMP_input=100u freq_input=500 VOS=1m
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: MultiChannel_EMG_IMP
// Cell name: TCA_DSL_v3
// View name: schematic
V3 (net061 0) vsource dc=900m type=dc
V2 (VCM 0) vsource dc=900m type=dc
V5 (net36 VCM) vsource dc=VOS type=dc
V4 (VDDA 0) vsource dc=1.8 type=dc
M31 (AP net084 VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M30 (AN net016 VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M27 (net059 net084 VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M25 (net093 net016 VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M23 (net080 outp VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M22 (net064 outn VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M17 (net030 net061 net029 net029) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M8 (0 net073 net029 net029) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M0 (AP outp VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M1 (net10 Vinp AP AP) pe w=10u l=500n as=2.91e-12 ad=2.7e-12 ps=1.1582e-05 \
        pd=1.054e-05 nrs=0.027 nrd=0.027 m=(1)*(20) par1=((1)*(20))
M7 (outp outp VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M6 (0 net10 net039 net039) pe w=8u l=180.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=((1)*(10))
M13 (AN outn VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M3 (net14 Vinn AN AN) pe w=10u l=500n as=2.91e-12 ad=2.7e-12 ps=1.1582e-05 \
        pd=1.054e-05 nrs=0.027 nrd=0.027 m=(1)*(20) par1=((1)*(20))
M12 (outn outn VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M10 (0 net14 net17 net17) pe w=8u l=180.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=((1)*(10))
IPRB1 (outp net039) iprobe
IPRB0 (outn net17) iprobe
M29 (net064 net064 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M28 (net080 net080 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M19 (net084 net026 net059 0) ne w=375.00n l=15.0u as=1.09125e-13 \
        ad=1.0125e-13 ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 \
        m=(1)*(20) par1=((1)*(20)) xf_subext=0
M18 (net016 net023 net093 0) ne w=375.00n l=15.0u as=1.09125e-13 \
        ad=1.0125e-13 ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 \
        m=(1)*(20) par1=((1)*(20)) xf_subext=0
M16 (net030 net030 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M20 (IBIAS2 IBIAS2 IBIAS 0) ne w=375.00n l=15.0u as=1.09125e-13 \
        ad=1.0125e-13 ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 \
        m=(1)*(20) par1=((1)*(20)) xf_subext=0
M21 (IBIAS IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M2 (net10 IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M15 (net14 IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
R4 (net093 net059) resistor r=7k
R3 (0 net062) resistor r=0
R2 (net023 net036) resistor r=1M
R1 (net032 net026) resistor r=1M
R0 (AP AN) resistor r=10K
V0 (Vinp net36) vsource mag=500.0m type=sine ampl=AMP_input \
        freq=freq_input
V1 (VCM Vinn) vsource mag=500.0m type=sine ampl=AMP_input freq=freq_input
I16 (VDDA net084) isource dc=1u type=dc
I15 (VDDA net016) isource dc=1u type=dc
I14 (net036 0) isource dc=2u type=dc
I13 (net032 0) isource dc=2u type=dc
I0 (VDDA net029) isource dc=800.0n type=dc
I7 (net059 0) isource dc=2u type=dc
I5 (net093 0) isource dc=2u type=dc
I1 (VDDA IBIAS2) isource dc=3u type=dc
C1 (net073 net062) capacitor c=1p
C0 (net026 net023) capacitor c=1n
M4 (VDDA AN net036 0) neli w=5u l=2u as=1.6125e-12 ad=1.35e-12 \
        ps=6.895e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(8) \
        par1=((1)*(8))
M9 (VDDA AP net032 0) neli w=5u l=2u as=1.6125e-12 ad=1.35e-12 \
        ps=6.895e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(8) \
        par1=((1)*(8))
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=0.01 stop=10k dec=20 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M28:1 IPRB1:in 
saveOptions options save=allpub
